US08557984B2
To a solution of 4-chloro-7-(3,5-dimethyl-4-isoxazolyl)-6-(methoxy)-3-nitroquinoline (for a preparation see intermediate 18, 7 g) in acetonitrile (100 ml) was added (2-pyridinylmethyl)amine (6.8 g) and the resulting mixture was heated at 60° C. for 1 h. The reaction mixture was then hydrolysed, extracted with DCM and the combined organic phases were dried (Na2SO4), filtered and evaporated to dryness. A portion of this material (2 g) was dissolved in Ethanol (80 ml) and HCl (1 ml, conc.). Tin (II) chloride dihydrate (1 g) was then added in two portions and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was hydrolysed using a saturated solution of sodium hydrogen carbonate. The m was extracted with DCM and the combined organic layers were filtered over Celite. The filtrate was dried (Na2SO4), filtered and concentrated to dryness to give, after chromatography, 3 g of material. The latter was dissolved in DCM (100 ml) and to this mixture were added HATU (3.65 g) and tetrahydro-2H-pyran-4-carboxylic acid (1.25 g). The resulting reaction mixture was stirred overnight at room temperature and hydrolysed by adding a solution of sodium hydrogen carbonate. The reaction mixture was extracted with DCM, dried (Na2SO4), filtered and concentrated to dryness to give the crude intermediate (2.9 g). This was dissolved on acetic acid (30 ml) and the resulting mixture was heated to 90° C. for 6 h. The reaction mixture was concentrated to dryness. A saturated aqueous solution of Sodium hydrogen carbonate was added and the mixture was extracted with DCM, dried (Na2SO4), filtered and concentrated to dryness. The crude compound was purified by chromatography on silica gel, eluting with DCM/methanol (95:5), then recrystallised from ethanol and was dried under vacuum to give 7-(3,5-dimethyl-4-isoxazolyl)-8-(methyloxy)-1-(2-pyridinylmethyl)-2-(tetrahydro-2H-pyran-4-yl)-1H-imidazo[4,5-c]quinoline as a beige powder (1.88 g).

reactant | 4-chloro-7-(3,5-dimethyl-4-isoxazolyl)-6-(methoxy)-3-nitroquinoline | ClC1=C(C=NC2=CC(=C(C=C12)OC)C=1C(=NOC1C)C)[N+](=O)[O-] | C15H12ClN3O4
reactant | (2-pyridinylmethyl)amine | 6.8 g | N1=C(C=CC=C1)CN | C6H8N2
reactant | HATU | 3.65 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tetrahydro-2H-pyran-4-carboxylic acid | 1.25 g | O1CCC(CC1)C(=O)O | C6H10O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-(3,5-dimethyl-4-isoxazolyl)-8-(methyloxy)-1-(2-pyridinylmethyl)-2-(tetrahydro-2H-pyran-4-yl)-1H-imidazo[4,5-c]quinoline | 1.88 g | CC1=NOC(=C1C=1C(=CC=2C3=C(C=NC2C1)N=C(N3CC3=NC=CC=C3)C3CCOCC3)OC)C | C27H27N5O3
